US06375926B1
Step B 4-(N-Boc-aminomethyi)benzoic Acid, Benzyl Ester (Compound 30)
To a mixture of 4-(N-Boc-aminomethyl)benzoic acid (500 mg, 1.99 mmol), DMAP (catalytic amount), benzyl alcohol (226 μl, 2.19 mmol) and dichloromethane (20 ml) was added dicyclohexylcarbodiimide (1M solution in dichloromethane, 2.19 ml, 2.19 mmol) and the mixture stirred at room temperature for 60 hours. The precipitate was removed by filtration and the filtrate concentrated in vacuo. Diethyl ether (50 ml) was added to the residue, the resulting precipitate removed by filtration and the filtrate concentrated in vacuo. Purification by flash column chromatography (petrol/EtOAc, 3:1) gave the title compound (412 mg, 61%) as a solid.

reactant | 4-(N-Boc-aminomethyl)benzoic acid | 1.99 mmol, 500 mg | C(=O)(OC(C)(C)C)NCC1=CC=C(C(=O)O)C=C1 | C13H17NO4
reactant | benzyl alcohol | 2.19 mmol, 226 μl | C(C1=CC=CC=C1)O | C7H8O
reactant | dicyclohexylcarbodiimide | 2.19 mmol, 1M, 2.19 ml | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(N-Boc-aminomethyi)benzoic Acid, Benzyl Ester | 412 mg, 61% | C(=O)(OC(C)(C)C)NCC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C20H23NO4
